US06924284B2
A solution of 3-amino-benzonitrile (118 mg, 1.00 mmol) and Boc2O (871 mg, 4.00 mmol) in 2.5 mL of THF was stirred at 60° C. under N2 for 24 h. After removal of solvent, the residue was extracted with diethyl ether and NaHSO4. The organic layer was dried over MgSO4 and evaporated to yield (3-Cyano-phenyl)-carbamic acid tert-butyl ester (175 mg, 80%) which was used without further purification.

reactant | 3-amino-benzonitrile | 1.00 mmol, 118 mg | NC=1C=C(C#N)C=CC1 | C7H6N2
reactant | Boc2O | 4.00 mmol, 871 mg | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
product | (3-Cyano-phenyl)-carbamic acid tert-butyl ester | 175 mg, 80% | C(C)(C)(C)OC(NC1=CC(=CC=C1)C#N)=O | C12H14N2O2
